US09376454B2
To 3,4-bis((tert-butoxycarbonylamino)methyl)benzoic acid (380 mg, 1 mmol) in THF (5 mL) was added NaH (200 mg, 60%). After stirring at room temperature for 20 min, MeI (4 eq) was added and the resultant solution stirred at room temperature overnight. Water was added and the aqueous phase extracted with EtOAc. The organic phase was washed with brine, dried and concentrated in vacuo to afford methyl 3,4-bis((tert-butoxycarbonylamino)methyl)benzoate (368 mg). The ester was hydrolyzed following the procedure described in step 1e of Example 14 to afford 3,4-bis((tert-butoxycarbonyl(methyl)amino)methyl)benzoic acid (300 mg).

reactant | 3,4-bis((tert-butoxycarbonylamino)methyl)benzoic acid | 1 mmol, 380 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1CNC(=O)OC(C)(C)C | C19H28N2O6
reactant | NaH | 200 mg | [H-].[Na+]
reactant | MeI | 4 eq | CI | CH3I
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 3,4-bis((tert-butoxycarbonylamino)methyl)benzoate | 368 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)OC)C=CC1CNC(=O)OC(C)(C)C | C20H30N2O6
